US08541588B2
2-Iodo-4-(trifluoromethyl)phenol
To a suspension of N-iodosuccinimide (11.10 g, 49.5 mmol) in glacial acetic acid (40 ml) was added 4-trifluoromethyl phenol (8.02 g, 49.5 mmol) and, after 5 minutes, concentrated sulphuric acid (0.87 ml, 14.8 mmol). The pale brown/red suspension was stirred at room temperature under nitrogen for 48 hours before diluting with water and extracting with dichloromethane. The organic extract was washed with water, saturated aqueous sodium thiosulphate solution, water, dried over magnesium sulphate before decolourising charcoal added. The suspension was left to stand for 10 minutes before filtering through a short pad of silica gel eluting with dichloromethane. The solvent was evaporated in vacuo to give an oil which was purified by flash column chromatography on silica eluting with dichloromethane to give the title compound as a pale yellow oil, 9.017 g, 63% yield.

reactant | N-iodosuccinimide | 49.5 mmol, 11.10 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | 4-trifluoromethyl phenol | 49.5 mmol, 8.02 g | FC(C1=CC=C(C=C1)O)(F)F | C7H5F3O
reactant | sulphuric acid | 14.8 mmol, 0.87 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2-Iodo-4-(trifluoromethyl)phenol | 63% yield | IC1=C(C=CC(=C1)C(F)(F)F)O | C7H4F3IO
